US07776857B2
2-(Trimethylsilyl)furo[3,2-b]pyridine N-oxide (10.51 g, 50.7 mmol) dissolved in POCl3 (47.3 ml, 507 mmol) in a sealed flask and heated at 100° C. for one hour. The reaction was cooled to RT, poured into a beaker washing with minimal DCM, and cooled in a brine bath. Saturated sodium bicarbonate solution was added very slowly and then solid sodium bicarbonate was added portion wise until the solution was at about pH=8. The solution was extracted twice with DCM, and the combined organic layers were dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (gradient elution 5-40% EtOAc:Hex) to afford 7-chloro-2-(trimethylsilyl)furo[3,2-b]pyridine as a pale yellow oil. MS: M+H+=226.2

reactant | 2-(Trimethylsilyl)furo[3,2-b]pyridine N-oxide | 50.7 mmol, 10.51 g | C[Si](C1=CC2=[N+](C=CC=C2O1)[O-])(C)C | C10H13NO2Si
reactant | POCl3 | 507 mmol, 47.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-(trimethylsilyl)furo[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(O2)[Si](C)(C)C | C10H12ClNOSi
